US07601716B2
1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-(1-methyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (112 mg) was reacted with 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole as in General Procedure 4B to give the title compound as a brown solid (74% yield). m.p.=156° C., LCMS: m/z=408.25 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.48 (2H, m), 3.65 (2H, m), 3.87 (3H, s), 4.58 (2H, s), 5.06 (1H, s), 6.45 (1H, s), 7.36 (2H, m), 7.49 (2H, m), 7.63 (2H, m).

reactant | 1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 112 mg | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)I)C1)C(F)(F)F | C15H12ClF3IN3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
product | 1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-(1-methyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 74% yield | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NN(C3)C)C1)C(F)(F)F | C19H17ClF3N5
